US07071218B2
To a mixture of 7-bromo-5-isobutyl-3,3-dimethyl-2,3-dihydro-benzofuran (9.9 g, 34.96 mmol) in THF (50 mL) cooled to −78° C. under an atmosphere of argon was added n-BuLi (25.17 mL, 2.5 M, 62.93 mmol) dropwise. The reaction mixture was stirred for 5 minutes and triisopropylborate (24.2 mL, 104.87 mmol) was added dropwise. The mixture was stirred at −50° C. for 2 hours then warmed up to room temperature and stirred overnight at room temperature. 1.0 N HCl (100 mL) was slowly added to the reaction mixture. After 1 hour the mixture was diluted with ethyl acetate and the layers separated. The organic layer was further washed with water, brine, dried (Mg2SO4), filtered and evaporated. The residue was chromatographed on silica gel (0 to 20% ethyl acetate in hexane) to give 4.3 g of 5-isobutyl-3,3-dimethyl-2,3-dihydro-benzofuran-7-boronic acid (46%). 1H NMR (300 MHz; CDCL3): 0.90 (d, J=6.6 Hz, 6 H), 1.33 (s, 6 H), 1.81 (m, 1 H), 2.43 (d, J=7.5 Hz, 2 H), 4.28 (s, 2 H), 5.86 (br s, 2 H), 6.98 (d, J=2.1 Hz, 1 H), 7.33 (d, J=2.1 Hz, 1 H).

reactant | 7-bromo-5-isobutyl-3,3-dimethyl-2,3-dihydro-benzofuran | 34.96 mmol, 9.9 g | BrC1=CC(=CC=2C(COC21)(C)C)CC(C)C | C14H19BrO
reactant | n-BuLi | 62.93 mmol, 2.5 M, 25.17 mL | [Li]CCCC
reactant | triisopropylborate | 104.87 mmol, 24.2 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1.0 N, 100 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-isobutyl-3,3-dimethyl-2,3-dihydro-benzofuran-7-boronic acid | 4.3 g, 46% | C(C(C)C)C=1C=C(C2=C(C(CO2)(C)C)C1)B(O)O | C14H21BO3
